US04994479
To a suspension of 260 mg of [4-(4-phenylbutoxy)-2methoxybenzyl]triphenylphosphonium choride obtained in Reference Example 22 in 2.5 ml of tetrahydrofuran was dropwise added 0.36 ml of a 1.42M n-butyl lithium/hexane solution. The mixture was stirred for 10 minutes to form a dark red solution The solution was dropwise added to a solution of 114 mg of ethyl o-formylphenoxyacetate in 1 ml of tetrahydrofuran at 0° C. using an injection tube. After stirring for 20 minutes, a saturated ammonium chloride aqueous solution was added thereto. The product was extracted with ether. After washing with water and then an aqueous saline solution, the ethereal layer was dried and concentrated. The crude product was fractionated and separated by TLC (developer; hexane : methylene chloride acetone=8:2:1) to obtain 170 mg of ethyl o-[3-methoxy-4-(4-phenylbutoxy)styryl]phenoxyacetate.

reactant | [4-(4-phenylbutoxy)-2methoxybenzyl]triphenylphosphonium choride | 260 mg | [Cl-].C1(=CC=CC=C1)CCCCOC1=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)OC
reactant | n-butyl lithium hexane | 1.42M | C(CCC)[Li].CCCCCC
reactant | ethyl o-formylphenoxyacetate | 114 mg | C(=O)C1=C(OCC(=O)OCC)C=CC=C1 | C11H12O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | ethyl o-[3-methoxy-4-(4-phenylbutoxy)styryl]phenoxyacetate | 170 mg | COC=1C=C(C=CC2=C(OCC(=O)OCC)C=CC=C2)C=CC1OCCCCC1=CC=CC=C1 | C29H32O5
